US07476764B2
Step 5: Preparation of 3-acetyl-5-(dipropylcarbamoyl)benzoic acid.
To a solution of methyl 3-acetyl-5-(dipropylcarbamoyl)benzoate (38 mg, 0.125 mmol) in a mixture of THF (0.1 mL), MeOH (0.2 mL) and H2O (0.5 mL), was added LiOH (8.9 mg, 0.374 mmol) and the mixture was stirred at room temperature for 1 h. The mixture was concentrated and partitioned between ethyl acetate and H2O. The aqueous layer was washed with ethyl acetate twice and acidified with 1N HCl solution to pH around 2˜3. The aqueous layer was extracted with ethyl acetate 3 times and the combined organic layers were dried over sodium sulfate and concentrated under vacuum to give the title compound (35 mg, 97.2% yield): 1H NMR (CD3OD, 500 MHz) δ ppm 0.78 (3H, m), 1.03 (3H, t, J=5 Hz), 1.62 (2H, m), 1.77 (2H, m), 2.69 (3H, s), 3.23 (2H, m), 3.52 (2H, m), 8.17 (1H, m), 8.21 (1H, m), 8.68 (1H, m). HPLC retention time: 1.687 min (method A). MS (ESI) (M+H)+ 292.23.

reactant | methyl 3-acetyl-5-(dipropylcarbamoyl)benzoate | 0.125 mmol, 38 mg | C(C)(=O)C=1C=C(C(=O)OC)C=C(C1)C(N(CCC)CCC)=O | C17H23NO4
reactant | MeOH | 0.2 mL | CO | CH4O
reactant | H2O | 0.5 mL | O | H2O
reactant | LiOH | 0.374 mmol, 8.9 mg | [Li+].[OH-]
solvent | THF | 0.1 mL | C1CCOC1 | C4H8O
product | 3-acetyl-5-(dipropylcarbamoyl)benzoic acid | 35 mg, 97.2% yield | C(C)(=O)C=1C=C(C(=O)O)C=C(C1)C(N(CCC)CCC)=O | C16H21NO4
